US06479480B1
To a suspension of 2.4 g (7.9 mmol) of (2-phenyl-1H-indol-3-yl)piperidin-2(R)-ylmethanone in anhydrous tetrahydrofuran (15 ml) under an atmosphere of nitrogen was added cautiously over 5 min a solution of lithium aluminium hydride (12.5 ml of a 1M solution in tetrahydrofuran, 12.5 mmol) at 0° C. The mixture was heated under reflux for 13 hr, after which it was cooled and quenched by careful addition of water (0.5 ml), 4N NaOH (0.5 ml), and water (1.5 ml). The mixture was stirred for 10 min then filtered through hyflo and evaporated in vacuo to afford 1.2 g (4.1 mmol; 52%) of 2-phenyl-3-(piperidin-2(R)-ylmethyl)-1H-indole as a yellow oil. δH (360 MHz; CDCl3) 1.09-1.26 (1H, m, aliphatic), 1.38-1.52 (1H, m, aliphatic), 1.60-1.74 (3H, m, aliphatics), 1.74-1.90 (1H, m, aliphatic), 2.67-2.80 (1H, m, aliphatic), 3.12-3.25 (1H, m, aliphatic), 3.28-3.38 (2H, m, aliphatics), 3.69 (1H, dd, J 13.8 and 4.2, indole CHAHB), 7.06-7.21 (2H, m, aromatics), 7.29-7.49 (4H, m, aromatics), 7.58 (1H, d, J 7.2, aromatics), 7.81 (1H, d, J 7.6, aromatic), 9.15 (1H, br s, NH); m/z (ES+) 291 (M++H, 100%).

reactant | (2-phenyl-1H-indol-3-yl)piperidin-2(R)-ylmethanone | 7.9 mmol, 2.4 g | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1C(=O)[C@@H]1NCCCC1 | C20H20N2O
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-phenyl-3-(piperidin-2(R)-ylmethyl)-1H-indole | 4.1 mmol, 1.2 g, 52% | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1C[C@@H]1NCCCC1 | C20H22N2
